US07157487B2
In acetonitrile-water (1:1, v/v, 60 ml) was dissolved cis-4-aminocyclohexanecarboxylic acid (1.32 g, 9.22 mmol). To the resulting solution were added di-tert-butyl dicarbonate (2.05 g, 9.39 mmol) and triethylamine (2.39 ml, 9.07 mmol) and the mixture was stirred at room temperature for 4 hours. The reaction mixture was concentrated under reduced pressure. The residue was acidified with 1N HCl, followed by extraction with a chloroform-methanol (5:1, v/v) mixture. The extract was dried over anhydrous magnesium sulfate and distilled under reduced pressure to remove the solvent, whereby cis-4-((tert-butoxycarbonyl)amino)cyclohexanecarboxylic acid (2.30 g, 97%) was obtained as a white crystalline powder. In methanol-benzene (5:1, v/v, 100 ml) was dissolved cis-4-((tert-butoxycarbonyl)amino)cyclohexanecarboxylic acid (2.30 g, 8.94 mmol). Trimethylsilyldiazomethane (a 2M hexane solution, 9 ml) was added dropwise to the resulting solution under stirring at room temperature. After completion of the dropwise addition, the reaction mixture was stirred at room temperature for 1 hour. The residue, which had been obtained by distilling the reaction mixture under reduced pressure to remove the solvent, was purified by chromatography on a silica gel column, whereby from hexane-ethyl acetate (3:1, v/v). eluate fractions, methyl cis-4-((tert-butoxycarbonyl)amino)cyclohexanecarboxylate (2.30 g, 100%) was obtained as a colorless oil. The resulting methyl cis-4-((tert-butoxycarbonyl)amino)cyclohexanecarboxylate (2.30 g, 8.93 mmol) was dissolved in methylene chloride (18 ml). After addition of trifluoroacetic acid (7 ml) to the resulting solution at 0° C., the reaction mixture was stirred at room temperature for 1.5 hours. The residue, which had been obtained by distilling the reaction mixture under reduced pressure to remove the solvent, was neutralized with a saturated aqueous solution of sodium bicarbonate, followed by extraction with a chloroform-methanol (5:1, v/v) mixture. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and distilled under reduced pressure to remove the solvent, whereby methyl cis-4-aminocyclohexanecarboxylate (1.39 g, 99%) was obtained as a colorless oil. In DMF (40 ml) were dissolved the resulting methyl cis-4-aminocyclohexanecarboxylate (1.39 g, 8.87 mmol) and 1-(tert-butoxycarbonyl)-(4S)-fluoro-(2S)-pyrrolidinecarboxylic acid (2.07 g, 8.87 mmol). EDC•HCl (2.56 g, 13.3 mmol), HOBt (5.0 mg, 0.04 mmol) and DMAP (5.0 mg, 0.04 mmol) were added to the resulting solution and the mixture was stirred overnight at room temperature. Saturated brine was poured in the reaction mixture, followed by extraction with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column, whereby from chloroform-methanol (20:1, v/v) eluate fractions, methyl cis-4-(1-(tert-butoxycarbonyl)-(4S)-fluoro-(2S)-pyrrolidinylcarbonylamino)cyclohexanecarboxylate (2.96 g, 90%) was obtained as a pale yellow solid.

reactant | cis-4-aminocyclohexanecarboxylic acid | 9.22 mmol, 1.32 g | N[C@H]1CC[C@H](CC1)C(=O)O | C7H13NO2
reactant | di-tert-butyl dicarbonate | 9.39 mmol, 2.05 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 9.07 mmol, 2.39 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile water | 60 ml | C(C)#N.O
product | cis-4-((tert-butoxycarbonyl)amino)cyclohexanecarboxylic acid | 2.30 g, 97% | C(C)(C)(C)OC(=O)N[C@H]1CC[C@H](CC1)C(=O)O | C12H21NO4
